### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Int/WithZero.lean [hunk 1]
```diff
@@ -46,27 +46,23 @@ def toNNReal {e : ℝ≥0} (he : e ≠ 0) : ℤᵐ⁰ →*₀ ℝ≥0 where
...
+      -- x ≠ 0 and y ≠ 0
       rw [dif_neg hxy, dif_neg hx, dif_neg hy, ← zpow_add' (Or.inl he), ← toAdd_mul]
       congr
       rw [← WithZero.coe_inj, WithZero.coe_mul, coe_unzero hx, coe_unzero hy, coe_unzero hxy]
 
 theorem toNNReal_pos_apply {e : ℝ≥0} (he : e ≠ 0) {x : ℤᵐ⁰} (hx : x = 0) :
     toNNReal he x = 0 := by
-  simp only [toNNReal, MonoidWithZeroHom.coe_mk, ZeroHom.coe_mk]
-  split_ifs; rfl
+  simp [toNNReal, hx]
```
Comment (grunweg) [inline Mathlib/Data/Int/WithZero.lean:61]: Just checking: these changes do not affect performance (by the "eyeball" metric), right?

File: Mathlib/Topology/PartialHomeomorph.lean [hunk 2]
```diff
@@ -934,8 +934,7 @@ lemma restr_eqOnSource_restr {s' : Set X}
     e.restr s ≈ e.restr s' := by
   constructor
   · simpa [e.restr_source]
-  · simp
-    exact fun ⦃x⦄ ↦ congrFun rfl
+  · simp [Set.eqOn_refl]
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph.lean:937]: Thanks for cleaning up my proof!

**Review by grunweg — COMMENTED** [review]
Thanks; looks very nice (as usual).
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
